US05698711
A rapidly stirred solution of 4-benzyloxy-3-cyclopentyloxybenzaldehyde (10.5 g; that is prepared as described in Reference Example 37) in glacial acetic acid (100 mL) is treated with sulfamic acid (4.85 g) and stirred at room temperature for 10 minutes. The solution is then cooled in an ice bath and treated with a solution of sodium chlorite (4.2 g) in water (100 mL) during 15 minutes at 13°-15° C. During the addition a white precipitate forms and, because stirring becomes difficult, a further quantity of glacial acetic acid (60 mL) is added. After warming to room temperature, the solution is stirred for a further 6 hours and further quantities of sodium chlorite (1.6 g) and sulfamic acid (1.7 g) are added. The mixture is poured onto water and the resulting solid is filtered off and dried, to give 3-cyclopentyloxy-4-benzyloxybenzoic acid (10 g).

reactant | 4-benzyloxy-3-cyclopentyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC1CCCC1 | C19H20O3
reactant | sulfamic acid | 4.85 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 4.2 g | Cl(=O)[O-].[Na+]
reactant | sodium chlorite | 1.6 g | Cl(=O)[O-].[Na+]
reactant | sulfamic acid | 1.7 g | S(N)(O)(=O)=O | H3NO3S
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 3-cyclopentyloxy-4-benzyloxybenzoic acid | 10 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C19H20O4
